US06737383B1
Step A: Preparation of N-(2,6-Dimethylphenyl)-N′-hydroxylurea
A 500 mL side arm flask equipped with a thermometer and an addition funnel with a nitrogen inlet was charged with 100 mL of toluene and 2.00 g (0.10 mol) of 50% hydroxylamine in water. A solution of 4.41 g of 2,6-dimethylphenyl isocyanate (0.03 mol) dissolved in 50 mL of toluene was added dropwise over 15 min. External cooling was used to maintain the, internal reaction temperature below 25° C. Stirring was continued at room temp for 18 h. The solvent was removed under reduced pressure to give a white solid. The residual solvent was further co-evaporated twice with toluene, then oven dried overnight to give the desired product (5.25 g) as a white solid melting at 192-193° C.

reactant | hydroxylamine | 0.10 mol, 2.00 g | NO | H3NO
reactant | 2,6-dimethylphenyl isocyanate | 0.03 mol, 4.41 g | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
solvent | water | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-Dimethylphenyl)-N′-hydroxylurea | 5.25 g | CC1=C(C(=CC=C1)C)NC(=O)NO | C9H12N2O2
